US06147251
1236.1 g of crude 2-methylene-3-acetoxy-4,4,4-trichlorobutyrate (91.3%) containing about 2.5% 2-methylene-3-hydroxy-4,4,4-trichlorobutyrate and 747 ml of tetrahydrofuran was charged to a 2-liter flask equipped with a reflux condenser, magnetic stir bar, and a thermometer. 38.0 g of sodium borohydride was added in three portions to the stirred solution. The reaction temperature rose to 32° C. The reaction was heated slowly to 70° C. for three hours. NMR indicated 80% of the starting material was converted into product, butyl 2-methyl-4,4,4-trichlorobut-2-enoate. The reaction was heated for another six hours at 80° C. and the reaction was quenched by removal of tetrahydrofuran and addition of water. The organic layer was separated and GC analysis showed the presence of 79.2% butyl 2-methyl-4,4,4-trichlorobut-2-enoate, 1% butyl 2-methyl-2,4,4-trichlorobut-3-enoate, 6.6% unreacted starting material, butyl 2-methylene-3-acetoxy-4,4,4-trichlorobutyrate, 3% 1-o butyl 2-methyl-3-acetoxy-4,4,4-trichlorobutyrate, and 0.5% butyl 2-methylene-3-hydroxy-4,4,4-trichlorobutyrate. Hydrogenated product, butyl 2-methyl-3-acetoxy-4,4,4-trichlorobutyrate, was formed owing to the presence of water or traces of other protonic solvents in the reaction system.

reactant | 2-methylene-3-acetoxy-4,4,4-trichlorobutyrate | 1236.1 g | C=C(C(=O)[O-])C(C(Cl)(Cl)Cl)OC(C)=O
reactant | 2-methylene-3-hydroxy-4,4,4-trichlorobutyrate | C=C(C(=O)[O-])C(C(Cl)(Cl)Cl)O
reactant | sodium borohydride | 38.0 g | [BH4-].[Na+]
reactant | butyl 2-methyl-4,4,4-trichlorobut-2-enoate | CC(C(=O)OCCCC)=CC(Cl)(Cl)Cl | C9H13Cl3O2
solvent | tetrahydrofuran | 747 ml | O1CCCC1 | C4H8O
product | butyl 2-methyl-3-acetoxy-4,4,4-trichlorobutyrate | CC(C(=O)OCCCC)C(C(Cl)(Cl)Cl)OC(C)=O | C11H17Cl3O4
